Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Syncope and hypotension 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ stage IV rectal CA (metastatic lesion to segment VI of 
the liver) s/p neoadj chemo (___) & radiation therapy who is 
recently  s/p APR w/ fudicials ___. He now w/ presents 
hypotension, possible syncope and ___. Patient reports that his 
PO intake has been poor the last couple of days and he has on
occasion felt lightheaded. He states that he has minimal pain 
and is emptying his bag 5x daily and that the output is thin. By 
report, he was seen at urgent care after he was sent for 
hydration 2 days ago and today was seen by his PCP for ___ voiding 
trial today (for post-op urinary retention). However, at one
point at the PCP's, he stood up and had to be caught by his 
physician and ___ family member. It is unclear if he had a loss of 
consciousness, as he reports remembering the entire incident. 
Despite this, the patient reports overall feeling well. He has 
been unable to void yet. 
 
Past Medical History:
Illness: atrial flutter, hematuria, obesity, thrombophlebitis, 
hip replacement, thyroid cancer status, post surgery and 
radioactive iodine, hypertension, erectile dysfunction, back 
problems, atrial septal defect many years ago, gout.

PSHx: thyroid lobectomyin ___ for papillary cancer, hip  
replacement surgery and surgery for atrial septal defect in ___ 
 

Allergies: NKDA

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals: 97.9, 74, 120/69, 18, 100% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, +S1/S2
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, mildly distended, appropriately tender to palpation, 
no rebound or guarding, incisions healing well, C/D/I
Perineum: Wound healing well, no erythema, no purulence, no 
separation.
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 04:49AM BLOOD WBC-6.2 RBC-3.71* Hgb-10.6* Hct-33.4* 
MCV-90 MCH-28.6 MCHC-31.7* RDW-14.1 RDWSD-46.5* Plt ___
___ 04:49AM BLOOD Plt ___
___ 04:49AM BLOOD Glucose-111* UreaN-23* Creat-1.7* Na-141 
K-3.3 Cl-119* HCO3-17* AnGap-8
___ 04:49AM BLOOD Calcium-9.1 Phos-1.7* Mg-1.8
___ 05:03AM BLOOD Lithium-0.6
 
Brief Hospital Course:
Mr ___ presented to ___ for dehydration and ___.  He was 
started on IV fluids, had a foley placed and his symptoms were 
monitored. His creatinine, which was 6.3 on admission, improved 
to 1.7 by discharge.  He tolerated a diet, kept on perineal 
precautions, pain was controlled, and clinically improving.  He 
was educated on the importance of maintaing adequate PO intake 
and staying hydrated.  He was discharged home with a foley in 
place for which he will followup with urology.   On discharge 
his ostomy was working, he was ambulating and tolerating a 
regualar diet with adequate PO intake, and  was discharged home 
with services for his ostomy and his foley catheter. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Gabapentin 300 mg PO 2 CAPSULES AM, 3 CAPSULES ___ 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Lithium Carbonate 1200 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
9. Allopurinol ___ mg PO DAILY 
10. Amlodipine 5 mg PO DAILY 
11. Lisinopril 40 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Amlodipine 5 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Gabapentin 300 mg PO 2 CAPSULES AM, 3 CAPSULES ___ 
7. Lisinopril 40 mg PO DAILY 
8. Lithium Carbonate 1200 mg PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
11. Tamsulosin 0.4 mg PO QHS 
12. Vitamin D ___ UNIT PO DAILY 
13. Psyllium Wafer 1 WAF PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Kidney Injury Secondary to Dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Your dehydration was most likely a complication from your new 
ileostomy. The output from the stoma is stool from the ___ 
intestine and the water content is very high. The stool is no 
longer passing through the large intestine which is where the 
water from the stool is reabsorbed into the body and the stool 
becomes formed. ___ must measure your ileostomy output for the 
next few weeks. The output from the stoma should not be more 
than 1200cc or less than 500cc. If ___ find that your output has 
become too much or too little, please call the office for 
advice. The office nurse or nurse practitioner can recommend 
medications to increase or slow the ileostomy output. 

Keep yourself well hydrated, if ___ notice your ileostomy output 
increasing, take in more electrolyte drink such as Gatorade. 
Please monitor yourself for signs and symptoms of dehydration 
including: dizziness (especially upon standing), weakness, dry 
mouth, headache, or fatigue. It is extremely important that ___ 
check your weight twice a day.  If your find your weight 
decreasing, increase your fluid intake.  If ___ continue to 
notice increased weight loss, or the dehydration symptoms 
mentioned above, please call the office or return to the 
emergency room for evaluation if these symptoms are severe. ___ 
may eat a regular diet with your new ileostomy. However it is a 
good idea to avoid fatty or spicy foods and follow diet 
suggestions made to ___ by the ostomy nurses.
___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze ___ amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own. Please contact the Urology department to 
schedule an appointment to manage your foley.  
 
Followup Instructions:
___